US07144896B2
3-[6-(1-Methanesulfonyl-1-methyl-ethyl)-quinolin-8-yl]-N-[6-(4-methylsulfanyl-phenyl)-pyridin-3-yl]-benzamide
A mixture of N-(6-Chloro-pyridin-3-yl)-3-[6-(1-methanesulfonyl-1-methyl-ethyl)-quinolin-8-yl]-benzamide, 4-methylsulfanyl-phenyl boronic acid (2 eq), PdCl2(dppf)2 (0.05 eq) and aqueous Na2CO3 (4 eq) in DME (0.04M from benzamide) was stirred at 100° C. for 12 h. The resulting mixture was poured in water and extracted with EtOAc (2×). The combined organic extracts were washed with water, brine, dried over MgSO4, filtered and concentrated. Flash chromatography (EtOAc) afforded the title compound as a white solid.

reactant | N-(6-Chloro-pyridin-3-yl)-3-[6-(1-methanesulfonyl-1-methyl-ethyl)-quinolin-8-yl]-benzamide | ClC1=CC=C(C=N1)NC(C1=CC(=CC=C1)C=1C=C(C=C2C=CC=NC12)C(C)(C)S(=O)(=O)C)=O | C25H22ClN3O3S
reactant | 4-methylsulfanyl-phenyl boronic acid | 2 eq | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | Na2CO3 | 4 eq | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 0.04M | COCCOC | C4H10O2
solvent | water | O | H2O
catalyst | PdCl2(dppf)2 | 0.05 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-[6-(1-Methanesulfonyl-1-methyl-ethyl)-quinolin-8-yl]-N-[6-(4-methylsulfanyl-phenyl)-pyridin-3-yl]-benzamide | CS(=O)(=O)C(C)(C)C=1C=C2C=CC=NC2=C(C1)C=1C=C(C(=O)NC=2C=NC(=CC2)C2=CC=C(C=C2)SC)C=CC1 | C32H29N3O3S2
